US07618978B2
2-(R)-(2-(S)-Amino-1-(S)-hydroxy-3-phenylpropyl)-piperidine-1-carboxylic acid tert-butyl ester
Add 2-(R)-(2-(S)-dibenzylamino-1-(S)-hydroxy-3-phenylpropyl)-piperidine-1-carboxylic acid tert-butyl ester (0.107 g, 0.21 mmol), 20% palladium hydroxide on carbon (60 mg) and methanol (5 mL) and stir 18 h under 1 atmosphere of hydrogen gas. Add filter agent, filter and concentrate to give the title compound as a foam.

reactant | 2-(R)-(2-(S)-dibenzylamino-1-(S)-hydroxy-3-phenylpropyl)-piperidine-1-carboxylic acid tert-butyl ester | 0.21 mmol, 0.107 g | C(C)(C)(C)OC(=O)N1[C@H](CCCC1)[C@H]([C@H](CC1=CC=CC=C1)N(CC1=CC=CC=C1)CC1=CC=CC=C1)O | C33H42N2O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium hydroxide on carbon | 60 mg | [OH-].[OH-].[Pd+2]
solvent | methanol | 5 mL | CO | CH4O
product | 2-(R)-(2-(S)-Amino-1-(S)-hydroxy-3-phenylpropyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](CCCC1)[C@H]([C@H](CC1=CC=CC=C1)N)O | C19H30N2O3
